* Open-loop output noise — ngspice .noise + AC (one-pole macromodel, same as ac_open_loop.cir).
*
* White input noise: thermal resistor Rn (en_white). Flicker is merged in the Python
* engine (``OpampNoiseConfig``) because ngspice ``.noise`` does not propagate thermal
* noise through ideal VCVS (E) sources or Spectre ``laplace_nd`` filters.
*
* Run via: python scripts/run_noise.py --simulator ngspice --output-dir outputs/ngspice

.param a0_db=80
.param gbw_hz=10Meg
.param rin_ohm=1e12
.param rout_ohm=100
.param en_white=5e-9
.param kT=4.142e-21
.param rn_white=PLACEHOLDER_RN
.param a0_linear=PLACEHOLDER_A0
.param wp_rad_s=PLACEHOLDER_WP
.param rlp_ohm=PLACEHOLDER_RLP
.param clp_f=PLACEHOLDER_CLP

VDD vdd 0 DC 1.8
VSS vss 0 DC 0
VCM inn 0 DC 0.9
Rinn inn 0 {rin_ohm}
Rinp inp 0 {rin_ohm}
Rn inp inn {rn_white}
VAC inp 0 DC 0.9 AC 1

Eaux n1 0 inp inn {a0_linear}
Rlp n1 n2 {rlp_ohm}
Clp n2 0 {clp_f}
Eout out 0 n2 0 1
ROUT out 0 {rout_ohm}

.ac dec PLACEHOLDER_DEC PLACEHOLDER_FSTART PLACEHOLDER_FSTOP
.noise V(out) VAC dec PLACEHOLDER_DEC PLACEHOLDER_FSTART PLACEHOLDER_FSTOP
.control
run
setplot noise1
set wr_singlescale
wrdata noise_spectrum.raw frequency onoise_spectrum inoise_spectrum
setplot ac1
set wr_singlescale
wrdata noise_ac.raw frequency vdb(out) vp(out)
.endc

.end
