// Op-amp noise analysis stub.
// Validates Spectre; noise spectrum/metrics come from the Python golden.

simulator lang=spectre

parameters rout_ohm=100

VDD (vdd 0) vsource dc=1.8
VSS (vss 0) vsource dc=0.0
ROUT (out 0) resistor r=rout_ohm
VOUT (out 0) vsource dc=0 type=dc

save out
dc dc
